US07737166B2
2-Amino-4-fluoro-6-methylbenzonitrile (I-264)
Acetic acid (16.0 ml, 28 mmol) was added to a concentrated hydrochloric acid (90 ml) solution of tin chloride dihydrate (63.1 g, 280 mmol), and 4-fluoro-2-methyl-6-nitrobenzonitrile (I-263) (16.8 g, 93.3 mmol) was added, then methanol (8 ml) was added. Since the reaction liquid greatly generated heat, it was cooled with ice. After stirring for 1 hour, the reaction mixture liquid was poured into aqueous sodium hydroxide solution (4.6 M, 500 ml) with ice therein. The precipitated solid was collected by filtration, washed with water, then dried to obtain the entitled compound (14.7 g, 99%) as a gray solid.

reactant | Acetic acid | 28 mmol, 16.0 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 90 ml | Cl | ClH
reactant | tin chloride dihydrate | 280 mmol, 63.1 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | 4-fluoro-2-methyl-6-nitrobenzonitrile | 93.3 mmol, 16.8 g | FC1=CC(=C(C#N)C(=C1)[N+](=O)[O-])C | C8H5FN2O2
reactant | sodium hydroxide | 4.6 M, 500 ml | [OH-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | 2-Amino-4-fluoro-6-methylbenzonitrile | 14.7 g, 99% | NC1=C(C#N)C(=CC(=C1)F)C | C8H7FN2
